US05942544
Part C. Methyl 3-(3-cyanophenyl)-5-(4-nitrophenyl)-2,4-pentadienoate (0.441 gm, 1.32 mmol) was dissolved in THF and degassed with N2. A catalytic amount of 10% Pd/C was added and the solution placed on a Parr shaker at 45 p.s.i. for 1 hour. After filtering through Celite, the solvent was removed under vacuum and the residue chromatographed on silica gel (10% ethyl acetate/methylene chloride) to yield methyl 3-(3-cyanophenyl)-5-(4-aminophenyl)pentanoate 0.220 gm (54%) of the product. MS: 309(M+H)+ ; 1H NMR (CDCl3): 1.9 (m, 2H), 2.35 (t, 2H), 2.6 (m, 2H), 3.15 (m, 1H), 3.55 (3H), 6. 60 (d, 2H), 6.85 (d, 2H), 7.5 (m, 4H).

reactant | Methyl 3-(3-cyanophenyl)-5-(4-nitrophenyl)-2,4-pentadienoate | 1.32 mmol, 0.441 gm | C(#N)C=1C=C(C=CC1)C(=CC(=O)OC)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C19H14N2O4
solvent | THF | C1CCOC1 | C4H8O
product | methyl 3-(3-cyanophenyl)-5-(4-aminophenyl)pentanoate | 0.220 gm, 54% | C(#N)C=1C=C(C=CC1)C(CC(=O)OC)CCC1=CC=C(C=C1)N | C19H20N2O2
